Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Massive Pleural Effusion
 
Major Surgical or Invasive Procedure:
Chest tube placed ___ by IP
Chest tube removed ___ by IP
Thoracentesis ___ by IP

 
History of Present Illness:
Please see H&P by Dr. ___ ___. 

In brief, ___ w/ newly diagnosed metastatic NSCLC 
w(ALK-rearranged) p/w shoulder pain, found to rapid disease 
progression, w/ large RUL cavitating carcinoma, massive 
encapsulated subpulmonic collection displacing the mediastinum, 
liver, IVC causing R. hepatic vein thrombosis, pleural 
dissemination, bony mets, and pericardial effusion. He was 
referred in from clinic for urgent pleural effusion management. 
He denied any SOB, DOE, but admitted to fatigue, and fluid that 
was "exploding out of my chest," as well as ___. 
 
Past Medical History:
None
 
Social History:
___
Family History:
Father had stage IV lung cancer age ___, but passed away from MI
Paternal uncle had stage IV lung cancer age ___
No other known cancers in the family
Mother alive and well, one sister who is healthy
Two children, both healthy
 
Physical Exam:
VITAL SIGNS: ___ 97% RA
General:  appears comfortable today, speaking and ambulating 
comfortably
HEENT: pupils 2 mm
CV:  RR, NL S1S2 no S3S4, no MRG, no JVD
PULM:  respirations unlabored, improved aeration on R (decreased
lower ___ lung field) good aeration on L, no wheezing, 
speaking in full paragraphs comfortably
ABD:  BS+, soft but firm
LIMBS:  No ___, no calf TTP
SKIN:  No rashes on extremities
NEURO:  Grossly WNL
 
Pertinent Results:
___ 10:21PM   ___ PTT-29.4 ___
___ 02:15PM   UREA N-17 CREAT-0.8 SODIUM-138 POTASSIUM-3.8 
CHLORIDE-99 TOTAL CO2-25 ANION GAP-18
___ 02:15PM   ALT(SGPT)-17 AST(SGOT)-13 LD(LDH)-246 
CK(CPK)-92 ALK PHOS-116 AMYLASE-12 TOT BILI-0.4 DIR BILI-<0.2 
INDIR BIL-0.4
___ 02:15PM   TOT PROT-5.7* ALBUMIN-3.4* GLOBULIN-2.3 
CALCIUM-9.3 PHOSPHATE-3.4 MAGNESIUM-2.0 URIC ACID-4.7
___ 02:15PM   WBC-24.1* RBC-3.55* HGB-10.4* HCT-31.3* 
MCV-88 MCH-29.3 MCHC-33.2 RDW-12.9 RDWSD-41.3
___ 02:15PM   NEUTS-77.3* LYMPHS-7.1* MONOS-6.3 EOS-7.5* 
BASOS-0.8 IM ___ AbsNeut-18.60* AbsLymp-1.70 AbsMono-1.51* 
AbsEos-1.81* AbsBaso-0.20*
___ 02:15PM   PLT COUNT-438*
 
Brief Hospital Course:
___ w/ newly diagnosed metastatic NSCLC w(ALK-rearranged) p/w
shoulder pain, found to rapid disease progression, w/ large RUL
cavitating carcinoma, massive encapsulated subpulmonic 
collection
displacing the mediastinum, liver, IVC causing R. hepatic vein
thrombosis, pleural dissemination, bony mets, and pericardial
effusion. 

# Large Pleural Effusion
Impressively considering the extent of the size, he is
asymptomatic apart from R shoulder pain, which is most likely
referred phrenic pain and remarkably 97-99% on RA. IP and CT 
have
evaluated patient and he had a CT placed on ___ w/ over 5L of 
dark ___ 
colored viscous fluid removed within first 12 hours, and over 7 
liters
over his hospitalization, requiring TPA/DNAse several times. 
Studies c/w exudate. Chest tube was removed on ___ w/ CXR post 
CT removal a new PTX
but this is a pneumothorax ex vacuo and he was asymptomatic. His 
O2 sats
remained high ___ on room air. ___ did an extra thoracetnesis on 
___ before
discharge to help remove fluid from an anterior pocket. He will 
see them in clinic
for follow up. 

# Pericardial Effusion
This was incidentally  noted on CT chest. It was measured 13 mm
on admission CT. Tachycardic and soft blood pressures here. EKG
revealed low voltage. TTE revealed moderate effusion w/o
tamponade. Repeat TTE after pleural fluid drained on ___
revealed mild to moderate, so largely stable if not better. This 
is likely seepage from
the massive pleural effusion that was causing a mediastinal 
shift, and also cannot 
rule out malignant effusion.
- will need serial TTEs as outpatient
- pt educated on tamponade symptoms

# NSCLC
He has been consented for ___ ___ (Crizotinib vs. 
Brigatinib
for advanced ALK-rearranged NSCLC) on ___. 
- PO chemo scheduled as outpatient to start ___ 
- bisphosphonate as outpatient

# Constipation
This is opiate induced. Very fearful of this recurring. Resolved 
with ___ donuts
coffee and part of a chocolate donut.
- cont daily miralax, senna/colace, and started daily MOM

# ___: mild, likely SIADH related to pain, will monitor

# Anemia: likely inflammatory block from malignancy. TSH, Fe, 
B12
studies wnl.

# Leukocytosis: asymptomatic, stable, likely leukomoid reaction
from malignancy. hold off on abx unless febrile. Blood cultures
NGTD. 

FEN: Regular diet
DVT PROPHYLAXIS: HSQ while inpatient
ACCESS: PIV
CODE STATUS: Presumed FC
DISPO: Home w/o services
BILLING: >30 mint spent coordinating discharge
______________
___, D.O.
Heme/Onc Hospitalist
___
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB or wheezing 
RX *albuterol sulfate [ProAir HFA] 90 mcg ___ puffs po q4hrs prn 
sob wheezing Disp #*1 Inhaler Refills:*0 
3.  Docusate Sodium 200 mg PO BID 
RX *docusate sodium 100 mg 2 tablet(s) by mouth twice a day Disp 
#*120 Tablet Refills:*0 
4.  Milk of Magnesia 30 mL PO DAILY 
RX *magnesium hydroxide [Milk of Magnesia] 400 mg/5 mL 30 ml by 
mouth daily and q6hrs prn constipation Refills:*0 
5.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Mild 
RX *oxycodone 5 mg ___ capsule(s) by mouth q4hrs prn pain Disp 
#*90 Capsule Refills:*0 
6.  OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
RX *oxycodone 10 mg 1 tablet(s) by mouth every twelve (12) hours 
Disp #*60 Tablet Refills:*0 
7.  Polyethylene Glycol 17 g PO DAILY constipation 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth daily 
Disp #*30 Packet Refills:*0 
8.  Senna 17.2 mg PO BID 
RX *sennosides [senna] 8.6 mg 2 tabs by mouth twice a day Disp 
#*120 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Metastatic Lung Adenocarcinoma, ALK-rearranged with osteolytic 
lesions
Large Pleural Effusion, s/p drainage
Large multiloculated right hydro pneumothorax
Pneumothorax ex vacuo 
Collapsed Right Middle and Lower Lobe
Mild-Moderate Pericardial Effusion
Constipation
Anemia, neoplastic related 
Hyponatremia (resolved)
Leukocytosis (Leukemoid reaction)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dr Mr. ___,

It was a pleasure taking care of you in the hospital. You were 
admitted to the hospital because you had an extremely large 
pleural effusion causing significant stress on your body. You 
were seen by the lung doctors who ___ in pleural 
effusions. You had a chest tube and a thoracentesis to help 
drain the fluid in your lung. You had over 7 liters removed. You 
were also seen by your oncology team. You will see them in 
clinic tomorrow and will start your chemo then. You were started 
on oxycodone and oxycontin while you were here. Please watch out 
for constipation and take the medications as prescribed. Call 
Dr. ___ office if you have not had a bowel movement in over 
2 days, increased pain despite taking 10 mg of oxycodone every 4 
hours as needed, or if you have any nausea and vomiting. If you 
have any shortness of ___ waste time, go to your 
nearest emergency room immediately and let Dr. ___ office 
know. Drink plenty of water ___ liters per day) to keep your 
stool soft. You may want to drink coffee and eat chocolate 
donuts every day while you take the narcotics! 

All the best,

Your ___ team

 
Followup Instructions:
___